US06977261B2
Step (1): 7-bromo-2-(3-trifluoromethylbenzyl)-2H-3,6-diazaisoquinolin-1-one
The alkylation of 7-bromo-1-hydroxy-3,6-diazaisoquinoline (1.00 g, 4.46 mmol) using 3-trifluoromethyl-benzyl bromide (1.60 g, 6.69 mmol) and cesium carbonate (2.18 g, 6.69 mmol) in dimethyl-formamide is carried out as previously described in Example 1, Step (1). Purification on a silica gel column eluted with hexanes/ethyl acetate 3:1, followed by trituration with hexanes/ethyl acetate 4:1 will afford the desired product. Step (2): 7-(3-phenylprop-1-ynyl)-2-(3-trifluoromethylbenzyl)-2H-3,6-diazaisoquinolin-1-one

reactant | 7-bromo-1-hydroxy-3,6-diazaisoquinoline | 4.46 mmol, 1.00 g | BrC1=NC=C2C=NN=C(C2=C1)O | C7H4BrN3O
reactant | 3-trifluoromethyl-benzyl bromide | 6.69 mmol, 1.60 g | FC(C=1C=C(CBr)C=CC1)(F)F | C8H6BrF3
reactant | cesium carbonate | 6.69 mmol, 2.18 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethyl-formamide | CN(C=O)C | C3H7NO
product | 7-bromo-2-(3-trifluoromethylbenzyl)-2H-3,6-diazaisoquinolin-1-one | BrC1=NC=C2C=NN(C(C2=C1)=O)CC1=CC(=CC=C1)C(F)(F)F | C15H9BrF3N3O
